US04278685
Ethyl 2-(1H-pyrrol-1-yl)propionate (Ger. Offen. No. 2,305,632) in dichloromethane, maintained below 0° C., is treated with two equivalents of sulphuryl chloride to give ethyl 2-(2,5-dichloro-1H-pyrrol-1-yl)propionate. Treatment of this ester with ammonia in the manner of Example 1, gives 2-(2,5-dichloro-1H-pyrrol-1-yl)propionamide.

reactant | Ethyl 2-(1H-pyrrol-1-yl)propionate | N1(C=CC=C1)C(C(=O)OCC)C | C9H13NO2
reactant | sulphuryl chloride | two equivalents | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | dichloromethane | ClCCl | CH2Cl2
product | ethyl 2-(2,5-dichloro-1H-pyrrol-1-yl)propionate | ClC=1N(C(=CC1)Cl)C(C(=O)OCC)C | C9H11Cl2NO2
